US07829560B2
N-[4-({2-[(1,1-Dioxidotetrahydro-3-thienyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide (Compound B347).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 1,1-Dioxo-tetrahydro-1λ6-thiophen-3-ylamine according to conditions described in general procedure C. Mp: 150-151° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.04 (s, 2 H), 2.30 (s, 1 H), 2.88 (s, 2 H), 3.07 (s, 2 H), 3.26 (t, J=4.4 Hz, 4 H), 3.77 (t, J=4.8 Hz, 4 H), 4.56 (s, 1 H), 6.49 (s, 1 H), 7.04 (d, J=12.4 Hz, 1 H), 7.26 (d, J=8.8 Hz, 1 H), 7.43 (d, J=8.0 Hz, 1 H), 7.47 (s, 1 H), 7.56-7.61 (m, 3 H), 7.81-7.84 (m, 1 H), 7.99 (d, J=7.6 Hz, 1 H), 8.30 (d, J=4.0 Hz, 1 H), 10.46 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 1,1-Dioxo-tetrahydro-1λ6-thiophen-3-ylamine | O=S1(CC(CC1)N)=O | C4H9NO2S
product | N-[4-({2-[(1,1-Dioxidotetrahydro-3-thienyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide | O=S1(CC(CC1)NC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)=O | C29H28FN5O5S
